US05434145
Dissolve butylamine (10 mmol) in methylene chloride (50 mL) and 10% sodium hydroxide (50 mL). Cool to 0° C. Add excess p-toluenesulfonyl chloride with stirring. After 1 hour allow the reaction to warm to room temperature and stir for 2 days. Neutralize the reaction with 0.5N hydrochloric acid and extract the aqueous with methylene chloride (2×100 mL). Rinse the combined organic extracts with water (100 mL), brine (100 mL), dry over anhydrous sodium sulfate, filter and concentrate under vacuum to provide N-butyl-4-methyl-benzenesulfonamide.

reactant | butylamine | 10 mmol | C(CCC)N | C4H11N
reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | 0.5N | Cl | ClH
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | sodium hydroxide | 50 mL | [OH-].[Na+]
product | N-butyl-4-methyl-benzenesulfonamide | C(CCC)NS(=O)(=O)C1=CC=C(C=C1)C | C11H17NO2S
